** sch_path: /foss/designs/project/row_fixed.sch
.subckt row IPG MODEb EN EN_cfgb clk E MODE RSTn REC
*.PININFO EN:I clk:I MODEb:I MODE:I E:I IPG:O REC:O RSTn:I EN_cfgb:O
x1 EN_cfg SW_IPG_pre MODEb AND
x2 vdd RSTn EN EN_cfg EN_cfgb clk GND DFF
x3 IPG SW_IPG SW_IPGb E TGATE
x4 EN_cfg SW_REC_pre MODE AND
x6 REC SW_REC SW_RECb E TGATE
x5 SW_IPGb SW_IPG INV
x7 SW_RECb SW_REC INV
x1b SW_IPG_pre SW_IPG SW_RECb AND
x4b SW_REC_pre SW_REC SW_IPGb AND
.ends

* expanding   symbol:  AND/AND.sym # of pins=3
** sym_path: /foss/designs/project/AND/AND.sym
** sch_path: /foss/designs/project/AND/AND.sch
.subckt AND IN0 OUT IN1
*.PININFO OUT:O IN0:I IN1:I
M1 net1 IN0 net2 GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net2 IN1 GND GND nfet_03v3 L=0.28u W=1u nf=1 m=1
M3 net1 IN0 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M4 net1 IN1 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
x1 OUT net1 INV
.ends


* expanding   symbol:  DFF/DFF.sym # of pins=7
** sym_path: /foss/designs/project/DFF/DFF.sym
** sch_path: /foss/designs/project/DFF/DFF.sch
.subckt DFF vdd RSTn D Q Qb CLK vss
*.PININFO D:I CLK:I RSTn:I Q:O vdd:B vss:B Qb:O
M1 net1 D net3 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M2 net1 D net2 vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M3 net2 c vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M4 net3 cbar vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M5 cbar CLK vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M6 cbar CLK vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M7 c cbar vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M8 c cbar vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M11 net5 RSTn net4 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M12 net4 net6 vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M13 net5 RSTn vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M14 net5 net6 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M15 net6 net1 vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M16 net6 net1 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M21 net9 net7 net8 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M22 net8 RSTn vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M23 net9 net7 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M24 net9 RSTn vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M25 Q net9 vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M26 Q net9 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M19 net7 net9 net11 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M20 net7 net9 net10 vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M31 net10 c vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M32 net11 cbar vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M35 net12 net9 vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M36 net12 net9 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M37 Qb net12 vss vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M38 Qb net12 vdd vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M9 net1 c net5 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M10 net1 cbar net5 vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
M17 net6 c net7 vss nfet_03v3 L=0.28u W=1u nf=1 m=1
M18 net6 cbar net7 vdd pfet_03v3 L=0.28u W=1u nf=1 m=1
.ends


* expanding   symbol:  TGATE/TGATE.sym # of pins=4
** sym_path: /foss/designs/project/TGATE/TGATE.sym
** sch_path: /foss/designs/project/TGATE/TGATE.sch
.subckt TGATE out c cbar in
*.PININFO in:I out:O cbar:I c:I
M1 out cbar in VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M2 out c in GND nfet_03v3 L=0.28u W=1u nf=1 m=1
.ends


* expanding   symbol:  AND/INV.sym # of pins=2
** sym_path: /foss/designs/project/AND/INV.sym
** sch_path: /foss/designs/project/AND/INV.sch
.subckt INV OUT IN
*.PININFO IN:I OUT:O
M1 OUT IN VDD VDD pfet_03v3 L=0.28u W=1u nf=1 m=1
M2 OUT IN GND GND nfet_03v3 L=0.28u W=0.5u nf=1 m=1
.ends

.GLOBAL GND
.GLOBAL vdd
.GLOBAL VDD
